US04041026
A solution of 4.7-dinitro-5-methoxy-1-methyl-5-phenyl-1,3,4,5-tetrahydro-2H-1,4-benzodiazepin-2-one (400 mg) and triethylamine (1.1 g) in methylene chloride (10 ml) is allowed to stand at room temperature for 72 hours. The reaction mixture is washed with water, dried over sodium sulfate, and evaporated under reduced pressure to remove the solvent. The residue is washed with diethyl ether to give 5-methoxy-1-methyl-7-nitro-5-phenyl-1,5-dihydro-2H-1,4-benzodiazepin-2-one (196 mg) as crude product.

reactant | 4.7-dinitro-5-methoxy-1-methyl-5-phenyl-1,3,4,5-tetrahydro-2H-1,4-benzodiazepin-2-one | 400 mg | [N+](=O)([O-])N1CC(N(C2=C(C1(C1=CC=CC=C1)OC)C=C(C=C2)[N+](=O)[O-])C)=O | C17H16N4O6
reactant | triethylamine | 1.1 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 5-methoxy-1-methyl-7-nitro-5-phenyl-1,5-dihydro-2H-1,4-benzodiazepin-2-one | 196 mg | COC1(N=CC(N(C2=C1C=C(C=C2)[N+](=O)[O-])C)=O)C2=CC=CC=C2 | C17H15N3O4
